US04562292
1,1,1-Trifluoro-3-thiophenylpropan-2-one
("TFPPS"). Thiophenol (75 mmol) was distilled under nitrogen into a dry 50 ml flask with a stir bar. Carbon tetrachloride (10 ml) was added followed by the slow addition of BTFA (75 mmol) while the reaction mixture was held at about 20° C. with a water bath. Following the addition of BTFA, the reaction was run as before and appeared to be complete within four hours. The reaction mixture was washed as before, dried and the ether layer concentrated to give a quantitative yield of a clear oil showing approximately 12% starting material by GLC. The clear, colorless oil was distilled to give the phenyl-sulfide (reference #8 in Table I) in 83% isolated yield. Following storage at -5° C., white needles formed in the oil. bp 65.0°-65.5° C. at 2.9 mmHg; NMR (CCl4) δ 3.95 (s, CH2), 7.4 (m, Ph); IR (neat, AgCl) 3500 (br s), 3100 (w), 1775 (w), 1750 (m), 1625 (br w), 1580 (s), 1480 (s), 1440 (s), 1200 (br s), mass spectrum, m/z (rel intensity), 220 (90), 124 (25), 123 (100), 110 (94), 109 (71), 77 (57), 69 (41), 66 (55), 65 (44), 58 (84). The compounds illustrated as reference #25 and #20 in Table I were prepared by a similar procedure.

reactant | Thiophenol | 75 mmol | C1(=CC=CC=C1)S | C6H6S
reactant | BTFA | 75 mmol | C(=O)(C(F)(F)F)NC(=O)C(F)(F)F | C4HF6NO2
solvent | Carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,1,1-Trifluoro-3-thiophenylpropan-2-one | quantitative yield | FC(C(CC=1SC=CC1)=O)(F)F | C7H5F3OS
